US07018988B2
(2S,4EZ)-N1-benzoyl-N2-(9-ethyl-9H-carbazol-3-yl)-4-(methoxyimino)-1,2-pyrrolidinedicarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid, benzoyl isocyanate, and 9-ethyl-9H-carbazol-3-amine the title compound was obtained in 59% purity by LC/MS. MS(ESI+): m/z=498.4.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOC)C(=O)O | C11H18N2O5
reactant | benzoyl isocyanate | C(C1=CC=CC=C1)(=O)N=C=O | C8H5NO2
reactant | 9-ethyl-9H-carbazol-3-amine | C(C)N1C2=CC=CC=C2C=2C=C(C=CC12)N | C14H14N2
product | (2S,4EZ)-N1-benzoyl-N2-(9-ethyl-9H-carbazol-3-yl)-4-(methoxyimino)-1,2-pyrrolidinedicarboxamide | C(C1=CC=CC=C1)(=O)NC(=O)N1[C@@H](CC(C1)=NOC)C(=O)NC=1C=CC=2N(C3=CC=CC=C3C2C1)CC | C28H27N5O4
